US06686352B2
f) N,N-Dimethyl-N′-(5-methyl-isoxazol-3-yl-methyl)-formamidine
A solution of the C-(5-methyl-isoxazol-3-yl)-methylamine (150 mg, 1.3 mmol) in N,N-dimethylformamide dimethylacetal (2 mL, 14.4 mmol) was heated under reflux for 3 h. After cooling to room temperature, the solvent was evaporated to leave the title compound as a yellow oil (220 mg, 98%. m/z 168.2 (MH)

reactant | C-(5-methyl-isoxazol-3-yl)-methylamine | 1.3 mmol, 150 mg | CC1=CC(=NO1)CN | C5H8N2O
reactant | N,N-dimethylformamide dimethylacetal | 14.4 mmol, 2 mL | COC(N(C)C)OC | C5H13NO2
product | N,N-Dimethyl-N′-(5-methyl-isoxazol-3-yl-methyl)-formamidine | CN(C=NCC1=NOC(=C1)C)C | C8H13N3O
